US07119207B2
6-Methoxy-3-methyl-1,1a,3,7b-tetrahydro-3-aza-cyclopropa[a]naphthalen-2-one
A suspension of 3.35 gm (15.1 mmol) trimethylsulfoxonium iodide in 10 ml of THF at 0° C. under nitrogen was treated portionwise with 5.8 ml (14.6 mmol) of 2.5 M n-hexyllithium in heptane over 30 minutes. The mixture was stirred for 30 minutes at 0° C. and then treated with 1.0 gm (5.02 mmol) 6-Methoxy-1-methyl-1H-quinolin-2-one followed by heating under reflux for 1.5 hours. The reaction mixture was allowed to cool to ambient temperature before quenching with 35 ml of water followed by extraction into ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and evaporated to afford 1.1 gm of desired product. Mass spectrum APCI m/e 204 (p+1).

reactant | trimethylsulfoxonium iodide | 15.1 mmol, 3.35 gm | [I-].C[S+](=O)(C)C
reactant | n-hexyllithium | 14.6 mmol, 2.5 M, 5.8 ml | C(CCCCC)[Li]
reactant | 6-Methoxy-1-methyl-1H-quinolin-2-one | 5.02 mmol, 1.0 gm | COC=1C=C2C=CC(N(C2=CC1)C)=O | C11H11NO2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | heptane | CCCCCCC | C7H16
product | 6-Methoxy-3-methyl-1,1a,3,7b-tetrahydro-3-aza-cyclopropa[a]naphthalen-2-one | 1.1 gm | COC1=CC=C2N(C(C3C(C2=C1)C3)=O)C | C12H13NO2
